US04542237
The oil, 1,1-dimethoxy-1-(6-methoxy-2-naphthyl) propan-2-ol, prepared in Example 29 is dissolved in 60 ml of pyridine and cooled to 10° C. Then 13 g of p-toluenesulfonyl chloride is added and the reaction mixture is stirred to dissolve the p-toluenesulfonyl chloride. The reaction mixture is allowed to stand overnight and the precipitation of pyridine hydrochloride is observed. The reaction mixture is poured into 7 volumes of water and extracted with ethyl ether. The ethereal layer is washed with dilute hydrochloric acid and then with dilute sodium hydroxide. The ethereal extract is dried over magnesium sulfate and evaporated to yield 1,1-dimethoxy-1-(6-methoxy-2-naphthyl)prop-2-yl p-toluenesulfonate, as an oil, [which is characterized by an NMR spectra in duterochloroform of τ=8.86 (doublet, J=2.5), 7.57, 6.82, 6.74, 6.09, 4.87 (quartet, J=2.5), 2.2-3.0 (multiplet)].

reactant | 1,1-dimethoxy-1-(6-methoxy-2-naphthyl) propan-2-ol | COC(C(C)O)(C1=CC2=CC=C(C=C2C=C1)OC)OC | C16H20O4
reactant | p-toluenesulfonyl chloride | 13 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 1,1-dimethoxy-1-(6-methoxy-2-naphthyl)prop-2-yl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(C(C1=CC2=CC=C(C=C2C=C1)OC)(OC)OC)C)C | C23H26O6S
